US07868022B2
Step B: (4-Fluoro-2-nitro-5-phenoxy-phenyl)-methanol
To a solution of (4,5-difluoro-2-nitrophenyl)methanol (950 mg, 5 mmol) in DMF (15 mL) were added potassium carbonate (1.23 g, 10 mmol) and phenol (520 mg, 5.5 mmol). The resulting mixture was stirred at 50° C. overnight, cooled to room temperature, filtered, washed with ethyl acetate (2×20 mL), and concentrated. The resulting crude mixture was purified by chromatography (silica gel, 30-70% ethyl acetate in heptane) to yield a slightly yellow solid.

reactant | (4,5-difluoro-2-nitrophenyl)methanol | 5 mmol, 950 mg | FC1=CC(=C(C=C1F)CO)[N+](=O)[O-] | C7H5F2NO3
reactant | potassium carbonate | 10 mmol, 1.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenol | 5.5 mmol, 520 mg | C1(=CC=CC=C1)O | C6H6O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (4-Fluoro-2-nitro-5-phenoxy-phenyl)-methanol | FC1=CC(=C(C=C1OC1=CC=CC=C1)CO)[N+](=O)[O-] | C13H10FNO4
